US04402970
N-(4-benzoyl-1,5-dimethyl(1H)pyrrol-3-yl)-2-iodoacetamide
N-(4-benzoyl-1,5-dimethyl(1H)pyrrol-3-yl)2-chloroacetamide (0.741 mole) and potassium iodide (1.62 mole) were refluxed in ethanol (3400 ml) for 5 hours with stirring. The reaction mixture was then cooled, the inorganic salts were filtered off and the solvent was evaporated under vacuum. The obtained residue was purified by washing first with water and then with cold ethanol. M.p. 135°-137° C. Yield 87%.

reactant | N-(4-benzoyl-1,5-dimethyl(1H)pyrrol-3-yl)2-chloroacetamide | 0.741 mole | C(C1=CC=CC=C1)(=O)C=1C(=CN(C1C)C)NC(CCl)=O | C15H15ClN2O2
reactant | potassium iodide | 1.62 mole | [I-].[K+]
solvent | ethanol | 3400 ml | C(C)O | C2H6O
product | N-(4-benzoyl-1,5-dimethyl(1H)pyrrol-3-yl)-2-iodoacetamide | C(C1=CC=CC=C1)(=O)C=1C(=CN(C1C)C)NC(CI)=O | C15H15IN2O2
